US04994479
One drop of N,N-dimethylformamide was added to a solution of 1 g of p-(4-phenylbutoxy)benzoic acid in 5 ml of methylene chloride and 2 ml of oxalyl chloride was added to the mixture at -30° C. or lower. The mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure to obtain crude p-(4-phenylbutoxy)benzoyl chloride. This substance was dissolved in 5 ml of methylene chloride and the resulting solution was added to a solution of 1 g of 2-amino-4-methylphenol in 5 ml of pyridine under ice cooling followed by stirring at room temperature for 3 hours. The reaction mixture was poured into conc. hydrochloric acid-ice and then extracted with ethyl acetate. The extract was washed subsequently with water, an aqueous solution of sodium hydrogen carbonate and again water. After drying over anhydrous magnesium sulfate, the system was concentrated under reduced pressure to obtain 1.4 g of 2'-hydroxy-5'-methyl-4-(4-phenylbutoxy)benzanilide.

reactant | p-(4-phenylbutoxy)benzoic acid | 1 g | C1(=CC=CC=C1)CCCCOC1=CC=C(C(=O)O)C=C1 | C17H18O3
reactant | 2-amino-4-methylphenol | 1 g | NC1=C(C=CC(=C1)C)O | C7H9NO
catalyst | N,N-dimethylformamide | One drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | oxalyl chloride | 2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2'-hydroxy-5'-methyl-4-(4-phenylbutoxy)benzanilide | 1.4 g | OC1=C(NC(C2=CC=C(C=C2)OCCCCC2=CC=CC=C2)=O)C=C(C=C1)C | C24H25NO3
